US04064236
Acetylprolylalanylproline (2 mmole) is dissolved in methylene chloride (5 ml) containing N-methylmorpholine (2 mmole) and diluted with dry tetrahydrofuran (400 ml). To this stirred solution at -20° to -25° is added isobutyl chloroformate (2 mmole) and the mixture is stirred for 15 minutes. A solution of 2-azaalanyl-l-lactic acid ethyl ester (2 mmole) in tetrahydrofuran (2 ml) is then added. The mixture is allowed to warm to room temperature over a period of 1 hour and stirred for a further 3 hours. The mixture is filtered, and the filtrate is evaporated to dryness. Chromatography on silica gel (38 gm) and elution with 5% methanol in chloroform gives acetylprolylalanylprolyl-2-azaalanyl-l-lactic acid ethyl ester.

reactant | Acetylprolylalanylproline | 2 mmole | C(C)(=O)N1[C@H](C(=O)N[C@@H](C)C(=O)N2[C@H](C(=O)O)CCC2)CCC1 | C15H23N3O5
reactant | N-methylmorpholine | 2 mmole | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 2 mmole | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 2-azaalanyl-l-lactic acid ethyl ester | 2 mmole | C(C)OC([C@@](O)(C)C(N(N)C)=O)=O | C7H14N2O4
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | acetylprolylalanylprolyl-2-azaalanyl-l-lactic acid ethyl ester | C(C)OC([C@@](O)(C)C(N(NC([C@H]1N(CCC1)C([C@@H](NC([C@H]1N(CCC1)C(C)=O)=O)C)=O)=O)C)=O)=O | C22H35N5O8
